US06093727
5,6,7,8-tetrahydro-3-nitro-quinoline.
A mixture of 1-methyl-3,5-dinitro-2-pyridone (2.4 g, 0.012 mole), cyclohexanone (1.18 g, 0.012 mole) and ammonia solution (2.0M, 120 mL) in methanol was refluxed overnight. The solvent was removed in vacuo and rhe residue was dissolved in ethyl acetate. The soluble portion was flash chromatographed over silica gel (eluent: 90:10 v/v ethyl acetate-hexane) to give a yellow solid (2.02 g, 94% yield).

reactant | 1-methyl-3,5-dinitro-2-pyridone | 0.012 mole, 2.4 g | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | cyclohexanone | 0.012 mole, 1.18 g | C1(CCCCC1)=O | C6H10O
reactant | ammonia | 2.0M, 120 mL | N | H3N
solvent | methanol | CO | CH4O
product | 5,6,7,8-tetrahydro-3-nitro-quinoline | 2.02 g, 94% yield | [N+](=O)([O-])C=1C=NC=2CCCCC2C1 | C9H10N2O2
